US07915250B2
3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid (2.1 g, 5.3 mmol), prepared using procedures similar to those in U.S. Pat. No. 7,019,033, was taken into DMF (10 mL) followed by addition of PyBOP (2.6 g, 5.3 mmol) and the mixture was allowed to stir at room temperature over 15 minutes. Azetidin-3-ol hydrochloride (870 mg, 8.0 mmol) and DIPEA (1.85 mL, 11.2 mmol) was then added and the mixture was allowed to stir an additional hour at room temperature. The mixture was then partitioned with ethyl acetate and 0.5 M aqueous sodium hydroxide solution. The organic layer was then washed with water (3×) then brine and dried over anhydrous sodium sulfate. Filtration and concentration followed by silica gel flash chromatography using ethyl acetate: hexanes (5:1) eluent afforded 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol (2.09 g, 87% yield) as a colorless amorphous solid. 1H NMR (400 MHz, CDCl3): 8.47 (s, 1H), 7.39 (dd, 1H), 7.32 (d, 1H), 7.13-7.09 (m, 1H), 6.84-6.78 (m, 1H), 6.63-6.57 (m, 1H), 4.74-4.67 (m, 1H), 4.43-4.39 (m, 2H), 4.20-3.96 (br d, 2H), 2.50 (d, 1H).

reactant | 3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid | 5.3 mmol, 2.1 g | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)I)F | C13H7F3INO2
reactant | PyBOP | 5.3 mmol, 2.6 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | Azetidin-3-ol hydrochloride | 8.0 mmol, 870 mg | Cl.N1CC(C1)O
reactant | DIPEA | 11.2 mmol, 1.85 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol | 2.09 g, 87% yield | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)O)NC1=C(C=C(C=C1)I)F | C16H12F3IN2O2
